US07812019B2
tert-butyl 1-benzyl-1,2,3,4-tetrahydroquinolin-3-ylcarbamate
A mixture of (1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester (507 mg, 2.04 mmol) and potassium carbonate (367 mg, 2.65 mmol) in ethanol (15 mL) was treated with benzyl bromide (367 mg, 2.14 mmol)and stirred overnight at ambient temperature. The reaction mixture was partitioned between ethyl acetate (100 mL) and water (100 mL). The isolated organic phase was washed with brine and dried over anhydrous sodium sulfate, filtered and concentrated. The resulting oil was chromatographed on silica gel, eluting with 5-to-50% ethyl acetate in hexane to afford the title compound (529 mg, 77%) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ:1.38 (s, 9H), 2.65-2.75 (dd, 1H), 2.83-2.92 (dd, 1H), 3.11-3.22 (dd, 1H), 3.35-3.42 (dd, 1H), 3.77-3.90 (m, 1H), 4.39-4.51 (q, 2H), 6.45-6.52 (m, 2H), 6.82-6.94 (m, 3H), 7.20-7.34 (m, 5H). MS (ESI) m/z 222.2, 283.1, 339.1 (M+H)+.

reactant | (1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester | 2.04 mmol, 507 mg | C(C)(C)(C)OC(NC1CNC2=CC=CC=C2C1)=O | C14H20N2O2
reactant | potassium carbonate | 2.65 mmol, 367 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.14 mmol, 367 mg | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | tert-butyl 1-benzyl-1,2,3,4-tetrahydroquinolin-3-ylcarbamate | 529 mg, 77% | C(C1=CC=CC=C1)N1CC(CC2=CC=CC=C12)NC(OC(C)(C)C)=O | C21H26N2O2
